decoder,cir

*
* ----------------------------------------------------------- 74145 ------
*  BCD-To-Decimal Decoders/Drivers
*
*  The TTL Logic Data Book, 1988, TI Pages 2-447 to 2-449
*  bss    3/17/94
*
.SUBCKT 74145 A B C D O0 O1 O2 O3 O4 O5 O6 O7 O8 O9
+     optional:  DPWR=$G_DPWR DGND=$G_DGND
+     params:  MNTYMXDLY=0 IO_LEVEL=0

U1LOG LOGICEXP(4,10) DPWR DGND
+     A B C D
+     O0_O O1_O O2_O O3_O O4_O O5_O O6_O O7_O O8_O O9_O
+     D0_GATE IO_STD MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
+
+  LOGIC:
+     abar = {~A}
+     bbar = {~B}
+     cbar = {~C}
+     dbar = {~D}
+     O0_O = {~(abar & bbar & cbar & dbar)}
+     O1_O = {~(A & bbar & cbar & dbar)}
+     O2_O = {~(abar & B & cbar & dbar)}
+     O3_O = {~(A & B & cbar & dbar)}
+     O4_O = {~(abar & bbar & C & dbar)}
+     O5_O = {~(A & bbar & C & dbar)}
+     O6_O = {~(abar & B & C & dbar)}
+     O7_O = {~(A & B & C & dbar)}
+     O8_O = {~(abar & bbar & cbar & D)}
+     O9_O = {~(A & bbar & cbar & D)}

U2DLY PINDLY(10,0,0) DPWR DGND
+     O0_O O1_O O2_O O3_O O4_O O5_O O6_O O7_O O8_O O9_O
+     O0 O1 O2 O3 O4 O5 O6 O7 O8 O9
+     IO_STD MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
+
+  PINDLY:
+     O0 O1 O2 O3 O4 O5 O6 O7 O8 O9 = {
+        CASE(
+          DELAY(-1,-1,50ns))}

.ENDS 74145
*

* U1 STIM(4,4) $G_DPWR $G_DGND  D C B A
* + IO_STD IO_LEVEL=0
* + 0NS 0   LABEL=START   100NS INCR BY 1   200NS GOTO START -1 TIMES   1800NS 0

X14 A B C D O0 O1 O2 O3 O4 O5 O6 O7 O8 O9 74145
a1 [d c b a] input_vec1
.model input_vec1 d_source(input_file = "decoder.stim")

.TRAN 4e-008 2U 0
.save all

.control
listing
run
eprint d c b a
eprint o0 o1 o2 o3 o4 o5 o6 o7 o8 o9
* save data to input directory
cd $inputdir 
eprvcd a b c d o0 o1 o2 o3 o4 o5 o6 o7 o8 o9 > decoder.vcd
* plotting the vcd file with GTKWave
if $oscompiled = 1 | $oscompiled = 8  ; MS Windows
  shell start gtkwave decoder.vcd --script nggtk.tcl
else
  if $oscompiled = 7 ; macOS, manual tweaking required (mark, insert, Zoom Fit)
    shell open -a gtkwave decoder.vcd
  else ; Linux and others
    shell gtkwave decoder.vcd --script nggtk.tcl &
  end
end
quit
.endc

.END
